US07253286B2
N-[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenyl]-N′-methylurea
After adding [4-(6-carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenyl]carbamic acid phenyl ester (25 mg) to methylamine 2N tetrahydrofuran solution (1.00 ml), the mixture was stirred for 10 minutes. The precipitated crystals were filtered out and washed with tetrahydrofuran to obtain the title compound (10 mg).

reactant | [4-(6-carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenyl]carbamic acid phenyl ester | 25 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(N)=O)OC)C(F)(F)F)=O | C25H18F3N3O5
reactant | methylamine | 2N, 1.00 ml | CN | CH5N
product | N-[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenyl]-N′-methylurea | 10 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC)C(F)(F)F | C20H17F3N4O4
